US07390923B2
3-(4-Cyanophenylamino)-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide was prepared as described in Example 52 starting from 4-aminobenzonitrile and 2-methyloxirane-2-carboxylic acid (3-methyl-4-nitrophenyl)amide. The crude product was purified by flash chromatography (dichloromethane-5% methanol). 1H NMR (400 MHz, DMSO-d6): 1.41 (3H, s), 2.52 (3H, s), 3.25 (1H, dd, J=13.5 Hz, J=5.3 Hz), 3.52 (1H, dd, J=13.5 Hz, J=7.0 Hz), 6.08 (1H, s), 6.53 (1H, m), 6.75 (2H, d, J=8.8 Hz)), 7.39 (2H, d, J=8.8 Hz), 7.79-7.83 (2H, m), 8.01 (1H, d, J=8.9 Hz), 10.02 (1H, s).

reactant | 4-aminobenzonitrile | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | 2-methyloxirane-2-carboxylic acid (3-methyl-4-nitrophenyl)amide | CC=1C=C(C=CC1[N+](=O)[O-])NC(=O)C1(OC1)C | C11H12N2O4
product | 3-(4-Cyanophenylamino)-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide | C(#N)C1=CC=C(C=C1)NCC(C(=O)NC1=CC(=C(C=C1)[N+](=O)[O-])C)(C)O | C18H18N4O4
